US09422271B2
A mixture of 5-iodo-2-phenylpyrimidin-4-ol (1.97 g, 6.67 mmol, 1.0 eq) and POBr3 (100 g) was heated to 100° C. for 8 hours. The solution was cooled down to 55° C. and poured into ice-water while stirring vigorously. The mixture was maintained below 25° C. during the quench. The reaction mixture was extracted with CH2Cl2. The organic layer was washed (cold water), dried (Na2SO4), evaporated and purified by silica gel chromatography (hexane as eluent) to afford 4-bromo-5-iodo-2-phenylpyrimidine (1.5 g, 62.5%). LC-MS (m/z): 360.8 [M+H]+. 1H NMR (400 MHz, CDCl3): δ 7.47-7.50 (m, 3H), 8.37-8.40 (m, 2H), 8.91 (s, 1H).

reactant | 5-iodo-2-phenylpyrimidin-4-ol | 6.67 mmol, 1.97 g, 1.0 eq | IC=1C(=NC(=NC1)C1=CC=CC=C1)O | C10H7IN2O
reactant | POBr3 | 100 g | P(=O)(Br)(Br)Br | Br3OP
product | 4-bromo-5-iodo-2-phenylpyrimidine | 1.5 g, 62.5% | BrC1=NC(=NC=C1I)C1=CC=CC=C1 | C10H6BrIN2
